US07501426B2
1-[(5-cyano-furan-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxy-carbonylamino)-piperidin-1-yl]-xanthine
Prepared by reacting 1-[(5-formyl-furan-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine with hydroxylamine-O-sulfonic acid and pyridine in toluene at reflux temperature.

reactant | 1-[(5-formyl-furan-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | C(=O)C1=CC=C(O1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)C | C26H32N6O6
reactant | hydroxylamine-O-sulfonic acid | NOS(=O)(=O)O | H3NO4S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[(5-cyano-furan-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxy-carbonylamino)-piperidin-1-yl]-xanthine | C(#N)C1=CC=C(O1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)C | C26H31N7O5
